US05130119
(a) 2-Benzyloxy-5-fluoro-(trifluoromethyl)-benzoic acid-[2-hydroxy-2-(2,2-dimethyl-I,3-dioxolan-4-yl)-ethylamide]
3.42 g (10 mmol) of 2-benzyloxy-5-fluoro-3-(trifluoromethyl)-benzoic acid ethyl ester is dissolved in 10 ml of ethanol, 2.43 g (15 mmol) of 2-hydroxy-2-(2,2-dimethyl-1,3-dioxolan-4-yl)-ethylamine is added, the ethanol is distilled off and the remaining oil is warmed to 100° C. in a vacuum in 2 hours. The reaction mixture is then dissolved in 50 ml of ethyl acetate, shaken out twice with 10 ml of 1N hydrochloric acid each, the organic phase is dried on sodium sulfate, concentrated by evaporation and the residue is chromatographed on silica gel 60 with ethyl acetate/hexane. 2.18 g (7.18 mol) =47.68% of the theoretical yield is obtained as an amorphous solid.

reactant | 2-benzyloxy-5-fluoro-3-(trifluoromethyl)-benzoic acid ethyl ester | 10 mmol, 3.42 g | C(C)OC(C1=C(C(=CC(=C1)F)C(F)(F)F)OCC1=CC=CC=C1)=O | C17H14F4O3
reactant | 2-hydroxy-2-(2,2-dimethyl-1,3-dioxolan-4-yl)-ethylamine | 15 mmol, 2.43 g | OC(CN)C1OC(OC1)(C)C | C7H15NO3
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-Benzyloxy-5-fluoro-(trifluoromethyl)-benzoic acid-[2-hydroxy-2-(2,2-dimethyl-I,3-dioxolan-4-yl)-ethylamide] | OC(CNC(C1=C(C(=CC(=C1)F)C(F)(F)F)OCC1=CC=CC=C1)=O)C1OC(OC1)(C)C | C22H23F4NO5
